US05624942
(1) Synthesis of an intermediate, 2-chloro-6-(2-thienylmethyloxy)pyridine
To a solution containing 2-thiophenemethanol (1.5 g, 0.0135×1.0 mol) and sodium hydride (0.58 g, (ca.60% in mineral oil), 0.0135×1.1 mol) in tetrahydrofuran, 2,6-dichloropyridine (2.0 g, 0.0135 mol) was added and the resultant solution was refluxed for about 2 hours. The reaction solution was partitioned between ethyl acetate and aqueous saturated sodium hydrogen carbonate. The obtained organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and thereafter, concentrated and purified on a silica gel column to obtain the end product.

reactant | 2-thiophenemethanol | 1.0 mol, 1.5 g | S1C(=CC=C1)CO | C5H6OS
reactant | sodium hydride | 1.1 mol, 0.58 g | [H-].[Na+]
reactant | 2,6-dichloropyridine | 0.0135 mol, 2.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-6-(2-thienylmethyloxy)pyridine | ClC1=NC(=CC=C1)OCC=1SC=CC1 | C10H8ClNOS
